US08802696B2
To a solution of 7-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinoline (25.2 g, 63.8 mmol) in DMF (30 ml) was added di-tert-butyl dicarbonate (13.91 g, 63.8 mmol). The reaction mixture was stirred at RT for 1 h, then AcOEt (500 ml) was added. The solution was washed with brine and water. The organic layer was dried over Na2SO4. After removal of solvent, solid rac-tert-butyl 7-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-4-(3,4-dichlorophenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate (30.6 g, 61.8 mmol, 97% yield) was obtained by recrystallization from MeOH; m/z=495.1 [M+1]; 1H NMR (400 MHz, CHLOROFORM-D) 8 ppm 1.30 (s, 9H), 3.60-4.15 (m, 3 H), 4.40-5.10 (m, 2H), 6.84-7.05 (m, 2H), 7.13 (d, J=1.51 Hz, 1H), 7.35 (m, 3H), 7.78 (dd, J=8.31, 1.77 Hz, 2 H), 8.31 (s, 1H), 8.72 (s, 1H).

reactant | 7-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinoline | 63.8 mmol, 25.2 g | N=1C=NN2C1C=CC(=C2)C2=CC=C1C(CNCC1=C2)C2=CC(=C(C=C2)Cl)Cl | C21H16Cl2N4
reactant | di-tert-butyl dicarbonate | 63.8 mmol, 13.91 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | AcOEt | 500 ml | CCOC(=O)C | C4H8O2
reactant | MeOH | CO | CH4O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | rac-tert-butyl 7-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-4-(3,4-dichlorophenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | 61.8 mmol, 30.6 g, 97% yield | N=1C=NN2C1C=CC(=C2)C2=CC=C1C(CN(CC1=C2)C(=O)OC(C)(C)C)C2=CC(=C(C=C2)Cl)Cl | C26H24Cl2N4O2
